US08604029B2
4-nitro-phenol (5.0 g, 36 mmol) was added to a stirred suspension of sodium hydride (3.13 g; 55% in mineral oil; 71.9 mmol) in dry tetrahydrofuran (100 mL) and stirred for 30 min at ambient temperature. Bromoacetic acid (6.0 g, 43.2 mmol) was added and the mixture then heated at reflux overnight. The reaction mixture was cooled to ambient temperature, neutralised with dilute hydrochloric acid and extracted with ethyl acetate. The separated organic layer was extracted with sodium bicarbonate solution and the aqueous solution was acidified with concentrated HCl to pH ˜3 to afford a white precipitate, which was filtered and dried under vacuum to give (4-nitro-phenoxy)-acetic acid (3.5 g, 45%).

reactant | 4-nitro-phenol | 36 mmol, 5.0 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | sodium hydride | 71.9 mmol, 3.13 g | [H-].[Na+]
reactant | Bromoacetic acid | 43.2 mmol, 6.0 g | BrCC(=O)O | C2H3BrO2
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | (4-nitro-phenoxy)-acetic acid | 3.5 g, 45% | [N+](=O)([O-])C1=CC=C(OCC(=O)O)C=C1 | C8H7NO5
